US09334279B2
To a round-bottom flask equipped with a stir bar was added (2S,3S)-methyl 2-((tert-butoxycarbonyl)amino)-3-((R)-hex-5-en-2-yloxy)pentanoate (458 mg, 1.39 mmol), THF (5 mL) and MeOH (5 mL). To the stirred solution was added aq. LiOH (2.0 M, 2 mL). The mixture was stirred for 16 h, then was concentrated in vacuo to afford an aqueous solution. The solution was acidified with aq. HCl (1 M) and then transferred to a separatory funnel. The mixture was twice extracted with EtOAc. The combined organics were washed with brine; dried over MgSO4; filtered; then concentrated in vacuo to afford (2S,3S)-2-((tert-butoxycarbonyl)amino)-3-((R)-hex-5-en-2-yloxy)pentanoic acid as a white foam (438 mg, 100%).

reactant | (2S,3S)-methyl 2-((tert-butoxycarbonyl)amino)-3-((R)-hex-5-en-2-yloxy)pentanoate | 1.39 mmol, 458 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)[C@H](CC)O[C@H](C)CCC=C | C17H31NO5
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | LiOH | 2.0 M, 2 mL | [Li+].[OH-]
reactant | HCl | 1 M | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | (2S,3S)-2-((tert-butoxycarbonyl)amino)-3-((R)-hex-5-en-2-yloxy)pentanoic acid | 438 mg, 100% | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)[C@H](CC)O[C@H](C)CCC=C | C16H29NO5
